US07858646B2
Synthesis of 6-[3-(3-hydroxy-2-methyl-4-propionyl-phenoxymethyl)-phenoxy]-nicotinic acid
Dissolve 6-[3-(3-hydroxy-2-methyl-4-propionyl-phenoxymethyl)-phenoxy]-nicotinic acid methyl ester (0.10 g, 0.24 mmol) in tetrahydrofuran (2 mL). Add lithium hydroxide (0.007 g, 0.29 mmol) and water (0.5 mL). Stir at ambient temperature for 2 hrs. Add 1 N hydrochloric acid (5 mL) and extract with ethyl acetate (3×10 mL). Combine the organic extracts, dry over magnesium sulfate, filter and concentrate under reduced pressure to obtain a residue. Purification using 5% isopropyl alcohol/chloroformchloroform to 10% isopropyl alcohol/chloroform as gradient eluent gives the title compound (0.06 g, 58%): MS (m/z): 406.1 (M−1). 1H NMR (acetone-d6) 13.00 (s, 1H), 8.76 (s, 1H), 8.40 (dd, J=1.7 Hz, 8.4 Hz, 1H), 7.86 (d, J=9.2 Hz, 1H), 7.54 (t, J=8.0 Hz, 1H), 7.44 (d, J=7.6 Hz, 1H), 7.38 (s, 1H), 7.22 (d, J=8.0 Hz, 1H), 7.15 (d, J=8.5 Hz, 1H), 6.76 (d, J=9.2 Hz, 1H), 5.36 (s, 2H), 3.09 (q, J=7.2 Hz, 2H), 2.14 (s, 3H), 1.20 (t, J=7.2 Hz, 3H).

reactant | 6-[3-(3-hydroxy-2-methyl-4-propionyl-phenoxymethyl)-phenoxy]-nicotinic acid methyl ester | 0.24 mmol, 0.10 g | COC(C1=CN=C(C=C1)OC1=CC(=CC=C1)COC1=C(C(=C(C=C1)C(CC)=O)O)C)=O | C24H23NO6
reactant | lithium hydroxide | 0.29 mmol, 0.007 g | [OH-].[Li+]
reactant | water | 0.5 mL | O | H2O
reactant | hydrochloric acid | 1 N, 5 mL | Cl | ClH
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 6-[3-(3-hydroxy-2-methyl-4-propionyl-phenoxymethyl)-phenoxy]-nicotinic acid | 0.06 g, 58% | OC=1C(=C(OCC=2C=C(OC3=NC=C(C(=O)O)C=C3)C=CC2)C=CC1C(CC)=O)C | C23H21NO6
